US09120772B2
304 mg (8 mmol, 2 eq) of lithium aluminum hydride were added to a solution of 968 mg (4 mmol, 1 eq) of 2-[azido(tetrahydrothiopyran-4-yl)methyl]-5-methylfuran in 10 ml of tetrahydrofuran cooled to −10° C. The reaction medium was stirred at ambient temperature for 2 hours. The reaction medium was cooled to 0° C. and water with a solution of sodium hydroxide at 2 N and diethyl ether were added (precipitation of the aluminum and lithium salts). The reaction medium was filtered through celite and then the filtrate was treated with a 3 N hydrochloric acid solution. The aqueous phase was recovered and basified with a 15 N sodium hydroxide solution and then extracted with diethyl ether. The organic phases were combined, dried over magnesium sulfate, filtered and evaporated. 728 mg of C-(5-methylfuran-2-yl)-C-(tetrahydrothiopyran-4-yl)methylamine were obtained. Yield=86%.

reactant | lithium aluminum hydride | 8 mmol, 304 mg, 2 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-[azido(tetrahydrothiopyran-4-yl)methyl]-5-methylfuran | 4 mmol, 968 mg, 1 eq | N(=[N+]=[N-])C(C=1OC(=CC1)C)C1CCSCC1 | C11H15N3OS
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | C-(5-methylfuran-2-yl)-C-(tetrahydrothiopyran-4-yl)methylamine | 728 mg, Yield=86% | CC1=CC=C(O1)C(C1CCSCC1)N | C11H17NOS
